US09403832B2
Part B. 3-(4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)-5-isopropyl-1,2,4-oxadiazole
4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carbonitrile (450 mg, 1.46 mmol) in 9 mL DMF and sodium carbonate (155 mg, 1.46 mmol) stirred room temperature 15 minutes, hydroxylamine HCl (203 mg, 2.9 mmol) added and reaction stirred 30 minutes at 80° C. Then 12 mL toluene added and pyridine (474 uL, 5.86 mmol) and isobutyricanhydride (973 uL, 5.86 mmol) added and reaction stirred at 80° C. for 1.5 hours. Reaction cooled to room temperature reduced in vacuo then taken up in ethyl acetate and washed with water, brine, water. Organic layer dried over magnesium sulfate and reduced in vacuo. For 250 mg crude product to use as is in further reactions.

reactant | 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carbonitrile | 1.46 mmol, 450 mg | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C#N | C11H11BrN6
reactant | sodium carbonate | 1.46 mmol, 155 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine HCl | 2.9 mmol, 203 mg | Cl.NO
reactant | pyridine | 5.86 mmol, 474 uL | N1=CC=CC=C1 | C5H5N
reactant | isobutyricanhydride | 5.86 mmol, 973 uL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)-5-isopropyl-1,2,4-oxadiazole | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C2=NOC(=N2)C(C)C | C15H18BrN7O
